US07935688B2
(2) Synthesis of 3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic Acid Methyl Ester
(Trimethylsilyl)diazomethane (2 M solution in diethyl ether, 0.5 mL, 1.0 mmol) was added to a mixture of 3-(4-bromo-phenyl)-propionic acid (0.1 g, 0.44 mmol), toluene (0.5 mL) and methanol (0.5 mL) while stirring at room temperature, and the mixture was stirred at the same temperature for 15 minutes. The reaction mixture was concentrated under reduced pressure. Potassium acetate (0.128 g, 1.3 mmol), bis(pinacolato)diboron (0.133 g, 0.52 mmol), a [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II), dichloromethane complex (1:1) (0.018 g, 0.02 mmol) and dimethyl sulfoxide (2 mL) were added to the resulting residue, and the mixture was stirred in a nitrogen atmosphere at 80° C. for two hours. Ethyl acetate was added to the reaction mixture. The organic layer was washed with a saturated aqueous ammonium chloride solution and water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by preparative TLC (hexane/ethyl acetate=10/1) to give the title compound (0.06 g, 47%).

reactant | (Trimethylsilyl)diazomethane | 1.0 mmol, 2 M, 0.5 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 3-(4-bromo-phenyl)-propionic acid | 0.44 mmol, 0.1 g | BrC1=CC=C(C=C1)CCC(=O)O | C9H9BrO2
reactant | Potassium acetate | 1.3 mmol, 0.128 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.52 mmol, 0.133 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | methanol | 0.5 mL | CO | CH4O
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic Acid Methyl Ester | 0.06 g, 47% | COC(CCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO4
